US06482852B2
(d) 3-(1,3-Dithiolan-2-yl)-4-(carboxymethyl)-N-acetyl-L-phenylalanine
To 3-(1,3-dithiolan-2-yl)-4(carboxymethyl)-N-acetyl-L-phenylalanine methyl ester (0.22 g, 0.57 mmol) in THF (10 mL) at 0° C. was added lithium hydroxide monohydrate (0.025 g, 0.60 mmol, 1 mL water). The mixture was stirred for 45 min, diluted with water, made acidic with 1 N HCl, and extracted with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and concentrated to a glassy solid which was homogeneous by RP HPLC (0.18 g, 86%). MS [M−H]− 368.

reactant | 3-(1,3-dithiolan-2-yl)-4(carboxymethyl)-N-acetyl-L-phenylalanine methyl ester | 0.57 mmol, 0.22 g | COC([C@@H](NC(C)=O)CC1=CC(=C(C=C1)CC(=O)O)C1SCCS1)=O | C17H21NO5S2
reactant | lithium hydroxide monohydrate | 0.60 mmol, 1 mL, 0.025 g | O.[OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(1,3-Dithiolan-2-yl)-4-(carboxymethyl)-N-acetyl-L-phenylalanine | S1C(SCC1)C=1C=C(C[C@H](NC(C)=O)C(=O)O)C=CC1CC(=O)O | C16H19NO5S2
